US07576215B2
N-(9-ANTHRYLMETHYL)-3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]Aniline
This compound was prepared according to the procedure of example 66, substituting 3-(3-benzyl-8-trifluoromethyl-quinolin-4-yl)-phenylamine and anthracene-9-carbaldehyde. MS (ESI) m/z 569.

reactant | 3-(3-benzyl-8-trifluoromethyl-quinolin-4-yl)-phenylamine | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)N)C(F)(F)F | C23H17F3N2
reactant | anthracene-9-carbaldehyde | C1=CC=CC2=CC3=CC=CC=C3C(=C12)C=O | C15H10O
product | N-(9-ANTHRYLMETHYL)-3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]Aniline | C1=CC=CC2=CC3=CC=CC=C3C(=C12)CNC1=CC(=CC=C1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)CC1=CC=CC=C1 | C38H27F3N2
